US06071899
1-Bromo-9-phenylnonan-2-one--A solution of 6-bromohexanoyl chloride (49.7 g, 0.233mol) in dry dichloromethane (40 ml) was added dropwise over 5 minutes to a suspension of aluminium chloride (31.0 g, 0.233 mol) in dry dichloromethane (100 ml), keeping the temperature between 20° C.-23° C. The mixture was stirred for 30 minutes at room temperature to give a yellow solution. Benzene (18.2 g, 0.233 mol) in dry dichloromethane (30 ml) was added and stirred for 20 hours at room temperature. Triethylsilane (59.9 g, 0.515 mol) was added over 10 minutes, maintaining the temperature between 25° C.-35° C. The solution was stirred for 60 minutes at room temperature. This was then poured onto ice/water (200g). A partial separation was achieved and the organic layer was washed with brine and water several times until the pH of the solution was neutral. The organic solution was dried (MgSO4) and evaporated under reduced pressure to a yellow oil. This was distilled under reduced pressure at 90° C.-110° C./0.5 mbar to give colourless oils. The relevant fractions were combined and purified by flash chromatography on silica gel using hexane to give 6-bromo-1-phenylhexane as a colourless oil (18.33 g, 33%).

reactant | 1-Bromo-9-phenylnonan-2-one | BrCC(CCCCCCCC1=CC=CC=C1)=O | C15H21BrO
reactant | 6-bromohexanoyl chloride | 0.233mol, 49.7 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminium chloride | 0.233 mol, 31.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Benzene | 0.233 mol, 18.2 g | C1=CC=CC=C1 | C6H6
reactant | Triethylsilane | 0.515 mol, 59.9 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-bromo-1-phenylhexane | 18.33 g, 33% | BrCCCCCCC1=CC=CC=C1 | C12H17Br
